US07429565B2
[2-Ethyl-4-[6-ethyl-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-but-2-enal
[6-Ethyl-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-acetaldehyde (90 mg, 0.269 mmol) and 2-(triphenyl-phosphorylidene)-butyraldehyde (98.4 mg, 0.296 mmol) in toluene (3 mL) were heated at 100° C. After 15 hours, a second portion of 2-(triphenyl-phosphanylidene)-butyraldehyde (98.4 mg, 0.296 mmol) was added and the reaction mixture was heated for additional 33 hours. After concentration, the residue was purified by silica gel chromatography to provide 50.3 mg (48%) of the desired product as a pale yellow oil.

reactant | [6-Ethyl-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-acetaldehyde | 0.269 mmol, 90 mg | C(C)C1=C(C(=C2C(OCC2=C1C)=O)OCC[Si](C)(C)C)CC=O | C18H26O4Si
reactant | 2-(triphenyl-phosphanylidene)-butyraldehyde | 0.296 mmol, 98.4 mg | C1(=CC=CC=C1)P(=C(C=O)CC)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21OP
reactant | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Ethyl-4-[6-ethyl-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-but-2-enal | 50.3 mg, 48% | C(C)C(C=O)=CCC=1C(=C2C(OCC2=C(C1CC)C)=O)OCC[Si](C)(C)C | C22H32O4Si
